US20010023238A1
N-Mono[4-(diethylamino)salicylidene]-1,2-phenylenediamine
3.479 g (17.64 mmol) 4-(N,N-Diethylamino)-salicylaldehyde are added at 5° C. in portions to a solution of 1.927 g (17.64 mmol) 1,2-phenylenediamine in 18 ml ethanol, the temperature being kept below 10° C. The resultant dark red suspension is stirred for 8 hours at room temperature and concentrated to dryness in vacuo. The crude product (6,34 g) is resolved by column chromatography (n-hexane/ethyl acetate 65:35). Yield: 1,27 g (26%), golden yellow crystalls.

reactant | 4-(N,N-Diethylamino)-salicylaldehyde | 17.64 mmol, 3.479 g | C(C)N(CC)C=1C=C(C(C=O)=CC1)O | C11H15NO2
reactant | 1,2-phenylenediamine | 17.64 mmol, 1.927 g | C1(=C(C=CC=C1)N)N | C6H8N2
solvent | ethanol | 18 ml | C(C)O | C2H6O
product | N-Mono[4-(diethylamino)salicylidene]-1,2-phenylenediamine | C(C)N(C=1C=C(C(C=NC2=C(C=CC=C2)N)=CC1)O)CC | C17H21N3O
